US08372986B2
4-(1-benzyl-1H-1,2,3-triazol-5-yl)benzaldehyde (5a)
Benzyl azide (0.200 g, 1.50 mmol), 4-ethynylbenzaldehyde (0.200 g, 1.54 mmol), Cp*RuCl(PPh3)2 (25 mg, 0.031 mmol). Solvent, benzene; reaction temperature, 80° C.; reaction time, 2 hours; yield, 0.32 g (81%). EI-MS: m/z 264 [M+1].

reactant | Benzyl azide | 1.50 mmol, 0.200 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 4-ethynylbenzaldehyde | 1.54 mmol, 0.200 g | C(#C)C1=CC=C(C=O)C=C1 | C9H6O
catalyst | Cp*RuCl(PPh3)2 | 0.031 mmol, 25 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(1-benzyl-1H-1,2,3-triazol-5-yl)benzaldehyde | C(C1=CC=CC=C1)N1N=NC=C1C1=CC=C(C=O)C=C1 | C16H13N3O
